US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-4-(4-methylbenzyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G alkylating with 4-methylbenzyl chloride, in 50% overall yield. This material was crystallized from ether to afford a white solid, mp 92°-94° C.; IR (KBr) 3496, 1659, 1503, 1405, 1304, 1283, 1248, 1063, 801 cm-1 ; 1H NMR (CDCl3) δ2.18-2.36 (m, 5H), 3.91 (q, J=5.7, 2H), 4.83 (dd, J=7.4, 5.7, 1H), 5.12 (s, 2H), 6.90-7.00 (m, 4H), 7.13 (s, 4H); MH+ at m/z=298; Anal. Calc'd for C18H19NO3 : C, 72.71; H, 6.44; N, 4.71. Found: C, 72.71; H, 6.48; N, 4.65.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 4-methylbenzyl chloride | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | KBr | [K+].[Br-]
product | 3,4-Dihydro-2-(2-hydroxyethyl)-4-(4-methylbenzyl)-3-oxo-2H-1,4-benzoxazine | OCCC1OC2=C(N(C1=O)CC1=CC=C(C=C1)C)C=CC=C2 | C18H19NO3
